US06288120B1
Step D: 7-{[2-(3,5-Dichloro-phenoxy)-ethyl}-methanesulfonyl-amino]-heptanoic acid ethyl ester.
A solution of NaH (60% in oil, 338 mg, 8.45 mmol) in DMF (23 mL) was cooled to 0° C. followed by addition of N-[2-(3,5-dichloro-phenoxy)-ethyl]-methanesulfonamide (2.0 g, 7.04 mmol). The reaction was stirred at room temperature for 0.5 h and was cooled to 0° C. followed by addition of ethyl 7-bromoheptanoate (2.0 g, 8.45 mmol). The reaction was heated at 65° C. for 3 h and was cooled to room temperature. EtOAc was added and the organic solution was washed consecutively with 1 N HCl, water, and brine. The organic solution was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography (4:1 hexanes:EtOAc) provided the title compound (2.84 9). 1HNMR (400 MHz, CDCl3) δ 6.95 (m, 1H), 6.75 (m, 2H), 4.06 (m, 5H), 3.56 (t, 2H), 3.22 (t, 2H), 2.86 (s, (t, 2H), 1.60 (m, 4H), 1.32 (m, 4H), 1.22 (t, 3H).

reactant | NaH | 8.45 mmol, 338 mg | [H-].[Na+]
reactant | N-[2-(3,5-dichloro-phenoxy)-ethyl]-methanesulfonamide | 7.04 mmol, 2.0 g | ClC=1C=C(OCCNS(=O)(=O)C)C=C(C1)Cl | C9H11Cl2NO3S
reactant | ethyl 7-bromoheptanoate | 8.45 mmol, 2.0 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
product | 7-{[2-(3,5-Dichloro-phenoxy)-ethyl}-methanesulfonyl-amino]-heptanoic acid ethyl ester | C(C)OC(CCCCCCN(S(=O)(=O)C)CCOC1=CC(=CC(=C1)Cl)Cl)=O | C18H27Cl2NO5S
